US07754737B2
N—((S)-4-(3-chlorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butyl)methanesulfonamide was prepared by reaction of (R)-tert-butyl 3-((S)-4-amino-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate with methanesulfonyl chloride followed by Boc removal using the conditions described in Example 83 Step 2.

reactant | (R)-tert-butyl 3-((S)-4-amino-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H31ClN2O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N—((S)-4-(3-chlorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butyl)methanesulfonamide | ClC=1C=C(C=CC1)[C@](CCCNS(=O)(=O)C)([C@H]1CNCCC1)O | C16H25ClN2O3S
